US07569600B2
A mixture of intermediate 1, 4-[1,2,4]triazol-1-yl-cyclohexanone (257 mg, 1.55 mmol) and 3-Amino-5-cyclohex-1-enyl-thiophene-2-carboxylic acid methyl ester (compound x, see Irina) (368 mg, 1.55 mmol) was treated by dibutyltin dichloride (24 mg, 0.078 mmol). The resulting mixture was stirred 5 min at room temperature and phenylsilane (210 μl, 1.70 mmol) was added. The reaction mixture was stirred at room temperature under nitrogen for 40 h. Solvent was removed and the crude was purified by silica gel column chromatography using a gradient from 50% EtOAc:hexanes to 100% EtOAc as eluent to give 5-cyclohex-1-enyl-3-(4-[1,2,4]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester (555 mg, 92%) as a yellow mixture of cis and trans isomers.

reactant | 4-[1,2,4]triazol-1-yl-cyclohexanone | 1.55 mmol, 257 mg | N1(N=CN=C1)C1CCC(CC1)=O | C8H11N3O
reactant | 3-Amino-5-cyclohex-1-enyl-thiophene-2-carboxylic acid methyl ester | 1.55 mmol, 368 mg | COC(=O)C=1SC(=CC1N)C1=CCCCC1 | C12H15NO2S
reactant | phenylsilane | 1.70 mmol, 210 μl | C1(=CC=CC=C1)[SiH3] | C6H8Si
catalyst | dibutyltin dichloride | 0.078 mmol, 24 mg | C(CCC)[Sn](CCCC)(Cl)Cl
product | 5-cyclohex-1-enyl-3-(4-[1,2,4]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester | 555 mg, 92% | COC(=O)C=1SC(=CC1NC1CCC(CC1)N1N=CN=C1)C1=CCCCC1 | C20H26N4O2S
